US06423689B1
[S-(R*,R*)]-3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(piperidine-1-sulfonylamino)-pentanoylamino]-propionic acid tert-butyl ester
A solution of the product from Example AI ([S-(R*,R*)]-2-(2-amino-4-methyl-pentanoylamino)-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester) (220 mg, 0.50 mmol), piperidinesulfonyl chloride (102 mg, 0.55 mmol, prepared by the method of Von Geldern, et al., J. Med. Chem., 1996;39:968-981), N,N-diisopropylethylamine (129 mg, 1.00 mmol), and DMAP (20 mg) in DMF (1 mL) is stirred at room temperature for 48 hours, diluted with ethyl acetate, and washed with water, 1N HCl, saturated NaHCO3 solution and brine, dried over anhydrous sodium sulfate, and concentrated. The remaining oily residue was purified via preparative TLC (50% EtOAc/hexane) giving a clear oil which was dissolved in 0.5 mL CHCl3, and diluted with 5 mL hexane. After 3 days at 3° C., the crystals that had formed were collected, and weighed 34 mg (12%), mp=125-126° C.

reactant | 2-(2-amino-4-methyl-pentanoylamino)-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)N)=O)=O | C26H36N2O4
reactant | piperidinesulfonyl chloride | N1(CCCCC1)S(=O)(=O)Cl | C5H10ClNO2S
reactant | N,N-diisopropylethylamine | 1.00 mmol, 129 mg | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CHCl3 | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | 5 mL | CCCCCC | C6H14
product | 3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(piperidine-1-sulfonylamino)-pentanoylamino]-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)NS(=O)(=O)N1CCCCC1)=O)=O | C31H45N3O6S
